US09126999B2
Example ER-896388 was prepared in two steps from 3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoic acid (25 mg, 0.056 mmol) and commercially available tert-butyl piperazine-1-carboxylate (42 mg, 0.224 mmol) in a manner similar to that of example D-6 to afford intermediate tert-butyl 4-(3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoyl)piperazine-1-carboxylate (18 mg, 0.029 mmol, 52% yield). Then, this intermediate (16 mg, 0.026 mmol) was treated with HCl in a manner similar to that of example ER-897560 to afford the desired product ER-896388 (14 mg, 98% yield).

reactant | 3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoic acid | 0.056 mmol, 25 mg | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=C(C(=O)O)C=CC2 | C22H20F3N3O4
reactant | tert-butyl piperazine-1-carboxylate | 0.224 mmol, 42 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl 4-(3-(5-(3,4-dimethoxyphenyl)-7-(trifluoromethyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidin-2-yl)benzoyl)piperazine-1-carboxylate | 0.029 mmol, 18 mg, 52% yield | COC=1C=C(C=CC1OC)C1NC=2N(C(C1)C(F)(F)F)N=C(C2)C=2C=C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C=CC2 | C31H36F3N5O5
